US08802670B2
2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine was reacted with 3-formylphenylboronic acid in General Procedure A to yield 3-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-benzaldehyde. Treatment of this aldehyde with sodium borohydride (2.5 equivalents) in ethanol yielded the desired compound.

reactant | 2-Chloro-6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)S(=O)(=O)C)N2CCOCC2 | C16H22ClN5O3S2
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 3-[6-(4-methanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[2,3-d]pyrimidin-2-yl]-benzaldehyde | CS(=O)(=O)N1CCN(CC1)CC1=CC2=C(N=C(N=C2N2CCOCC2)C=2C=C(C=O)C=CC2)S1 | C23H27N5O4S2
